US07482457B2
Step 2: Methyl 2-{[3-methyloxy-2-phenyl-4-quinolinyl]carbonyl}-1-phenylhydrazinecarboxylate
To a solution of 3-methyloxy-N′,2-diphenyl-4-quinolinecarbohydrazide (100 mg, 0.27 mmol) and Et3N (56 μL, 0.41 mmol) in CH2Cl2 (7 mL) was added methyl chloroformate (27 μL, 0.35 mmol). After stirring at room temperature for 4 h the mixture was diluted with CH2Cl2 and washed with 1N HCl (20 mL), 1N NaOH (20 mL) and brine (20 mL). The organic phase was dried (MgSO4) and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with isohexane:ethyl acetate (2:1), to afford the title compound (59 mg, 51%) as a colourless foam. 1H NMR (CDCl3, 360 MHz), δ 8.43 (1H, s), 8.16-8.13 (2H, m), 8.02-8.00 (2H, m), 7.69 (1H, dt, J=6.9 and 1.3 Hz), 7.61-7.41 (8H, m), 7.30 (1H, t, J=7.4 Hz), 3.91 (3H, s), 3.57 (3H, s). MS (ES+) C25H21N3O4 requires: 427, found: 428 (M+H+, 100%).

reactant | 3-methyloxy-N′,2-diphenyl-4-quinolinecarbohydrazide | 0.27 mmol, 100 mg | COC=1C(=NC2=CC=CC=C2C1C(=O)NNC1=CC=CC=C1)C1=CC=CC=C1 | C23H19N3O2
reactant | Et3N | 0.41 mmol, 56 μL | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 0.35 mmol, 27 μL | ClC(=O)OC | C2H3ClO2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-{[3-methyloxy-2-phenyl-4-quinolinyl]carbonyl}-1-phenylhydrazinecarboxylate | 59 mg, 51% | COC=1C(=NC2=CC=CC=C2C1C(=O)NN(C(=O)OC)C1=CC=CC=C1)C1=CC=CC=C1 | C25H21N3O4
